US04347358
10 g of t-butyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide in 40 ml of trifluoroacetic acid were stirred for 15 minutes at room temperature and after evaporation to dryness under vacuo, 25 ml of dichloromethane were added to the residue and evaporation to dryness was repeated. Ether was added to the residue and the formed crystals were vacuum filtered and washed with ether and the almost colorless solid was dried under vacuo to obtain 8.54 g of 3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide having the following characteristics:

reactant | t-butyl 3-bromomethyl-7-formamido-3-cephem-4-carboxylate-1-oxide | 10 g | BrCC=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC=O)=O)=O | C13H17BrN2O5S
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-bromomethyl-7-formamido-3-cephem-4-carboxylic acid-1-oxide | 8.54 g | BrCC=1CS([C@H]2N(C1C(=O)O)C(C2NC=O)=O)=O | C9H9BrN2O5S
